US07034039B2
A solution of (E)-3-[3-[[(tert-butoxycarbonyl)amino]methyl]-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenic acid (0.20 g, 0.4 mmol), 1-ethyl-3-(3-3-dimethylaminopropyl)carbodiimide hydrochloride (0.15 g, 0.8 mmol) and 1-hydroxybenzotriazole ammonium salt (0.12 g, 0.8 mmol) in N,N-dimethylformamide (10 ml) was stirred at room temperature for 2 h. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with brine, dried over anhydrous magnesium sulfate and concentrated under reduced pressure. The residue was purified by silica gel column chromatography to give (E)-3-[3-[[(tert-butoxycarbonyl)amino]methyl]-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide (09.13 g, 65.0%) as crystals.

reactant | (E)-3-[3-[[(tert-butoxycarbonyl)amino]methyl]-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenic acid | 0.4 mmol, 0.20 g | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)F)/C=C/C(=O)O)=O)CC(C)C | C28H31FN2O5
reactant | 1-hydroxybenzotriazole ammonium salt | 0.8 mmol, 0.12 g | [NH4+].ON1N=NC2=C1C=CC=C2
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
product | (E)-3-[3-[[(tert-butoxycarbonyl)amino]methyl]-4-(4-fluorophenyl)-2-isobutyl-1-oxo-1,2-dihydro-6-isoquinolinyl]-2-propenamide | 65.0% | C(C)(C)(C)OC(=O)NCC=1N(C(C2=CC=C(C=C2C1C1=CC=C(C=C1)F)/C=C/C(=O)N)=O)CC(C)C | C28H32FN3O4
